US06992103B2
{(S)-1-[(2S,4R)-4-(3-Methyl-but-2-enyl)-5-oxo-tetrahydro-furan-2-yl]-2-phenyl-ethyl}carbamic acid tert-butyl ester (D30)
Prepared analogously to the synthesis of [(S)-1-(4-Methyl-5-oxo-tetrahydrofuran-2-yl)-2-phenylethyl]carbamic acid t-butyl ester in Journal of Organic Chemistry (1986) 51(21), 3921, using 4-bromo-2-methyl-2-butene in place of methyl iodide, to afford D30 in 84% yield.

reactant | [(S)-1-(4-Methyl-5-oxo-tetrahydrofuran-2-yl)-2-phenylethyl]carbamic acid t-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1OC(C(C1)C)=O)=O | C18H25NO4
reactant | 4-bromo-2-methyl-2-butene | BrCC=C(C)C | C5H9Br
product | {(S)-1-[(2S,4R)-4-(3-Methyl-but-2-enyl)-5-oxo-tetrahydro-furan-2-yl]-2-phenyl-ethyl}carbamic acid tert-butyl ester | 84% yield | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)[C@H]1OC([C@@H](C1)CC=C(C)C)=O)=O | C22H31NO4
